US04886794
α-(4-Fluorophenyl)-α-phenyl-4-piperidinemethanol
A mixture of 16.3 g (0.05 mole) of 1-acetyl-α-(4-fluorophenyl)-α-phenyl-4-piperidinemethanol and 5.6 g (0.1 mole) of potassium hydroxide in 150 ml of 95% ethanol and 20 ml of water was heated at reflux for 18 hr. The mixture was poured into 1.5 liter of ice water and a solid precipitated. The solid was collected by filtration and dried. The gummy solid was dissolved in ethyl ethyl ether, the solution was filtered, and the filtrate slowly evaporated to 50 ml volume. The resulting solid was collected by filtration and recrystallized from 2-propanol-isopropyl ether to yield 3.5 g (25%) of white solid, m.p. 144.5°-146° C.

reactant | 1-acetyl-α-(4-fluorophenyl)-α-phenyl-4-piperidinemethanol | 0.05 mole, 16.3 g | C(C)(=O)N1CCC(CC1)C(O)(C1=CC=CC=C1)C1=CC=C(C=C1)F | C20H22FNO2
reactant | potassium hydroxide | 0.1 mole, 5.6 g | [OH-].[K+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | α-(4-Fluorophenyl)-α-phenyl-4-piperidinemethanol | 3.5 g, 25% | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H20FNO
